US06939885B2
Synthesis of (2-amino-5-chloro-phenyl)-pyridin-2-yl-methanone
To a solution of 2-bromopyridine (5 ml, 52 mmol) in Et2O (60 ml) was added 40 ml of a n-butyllithium (1.6M in hexane, 64 mmol) drop wise at −40° C. over 30 min under a nitrogen atmosphere. The resulting yellow solution was stirred for a further 1 hr at −50° C. to −30° C. In a separate flask, a solution of 2-amino-5-chlorobenzoic acid (2.05 g, 12 mmol) in dry THF (90 ml), under nitrogen atmosphere and with ice-cooling, was added in one portion to the solution prepared as described above. The reaction mixture was stirred for 2 hrs at 0° C. and then chlorotrimethylsilane (30 ml) was added at 0° C. with stirring. The reaction mixture was allowed to warm to room temperature and 1 N HCl aq (100 ml) was added. The resulting two-phase system was separated. The aqueous phase was adjusted to pH 12 with 6N NaOH solution and extracted with ethyl acetate (2×150 ml). The combined organic extractions were dried over Na2SO4. After removal of solvent, the residue was purified by the flash chromatography using ethyl acetate/hexane (1:4) as eluent. Crystallization of the product from Et2O/hexane mixture gave 1.26 g (45%) of desired product as yellow solid. 1H-NMR (DMSO-d6, 500 MHz): δ 6.90 (1H, d, J=9 Hz), 7.31 (1H, dd, J=9 and 2.5 Hz), 7.40 (2H, br), 7.53 (1H, d, J=2.5 Hz), 7.61 (1H, m), 7.79 (1H, d, J=8 Hz), 8.03 (1H, m), 8.69 (1H, m). MS: (ESI+): 233.2 (M+1).

reactant | 2-bromopyridine | 52 mmol, 5 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 64 mmol, 1.6M, 40 ml | C(CCC)[Li]
reactant | 2-amino-5-chlorobenzoic acid | 12 mmol, 2.05 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | chlorotrimethylsilane | 30 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | HCl | 1 N, 100 ml | Cl | ClH
solvent | Et2O | 60 ml | CCOCC | C4H10O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | (2-amino-5-chloro-phenyl)-pyridin-2-yl-methanone | 1.26 g, 45% | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CC=C1 | C12H9ClN2O
